US08022062B2
(±)-7-Chloro-6-[1-(6-methylpyridin-2-yl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 315, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and (±)-2-(1-chloroethyl)-6-methylpyridine hydrochloride to give, after deprotection by a method similar to the General Procedure 1-4, the title compound as a tan solid. MS (ES+) m/z: 333 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (±)-2-(1-chloroethyl)-6-methylpyridine hydrochloride | Cl.ClC(C)C1=NC(=CC=C1)C
product | (±)-7-Chloro-6-[1-(6-methylpyridin-2-yl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC(C)C1=NC(=CC=C1)C | InChI=1S/C18H21ClN2S.ClH/c1-12-4-3-5-17(21-12)13(2)22-18-15-9-11-20-10-8-14(15)6-7-16(18)19;/h3-7,13,20H,8-11H2,1-2H3;1H
